US07943607B2
3-[(7-Fluoro-5,5-dioxido-3,4-dihydro-2H-1,5-benzoxathiepin-8-yl)oxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
A solution of 3-[(2,4,5-trifluorophenyl)sulfonyl]dihydrofuran-2(3H)-one (126 mg, 0.45 mmol) and 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide (203 mg, 0.50 mmol) in acetonitrile (3.5 mL) was treated with caesium carbonate (650 mg, 2.0 mmol) and heated in a microwave reactor at 150° C. for 1.5 hours. The reaction mixture was filtered and concentrated in vacuo. The residue was then chromatographed on silica, eluting with a gradient of 0 to 10% methanol in ethyl acetate, to afford the title compound (78 mg).

reactant | 3-[(2,4,5-trifluorophenyl)sulfonyl]dihydrofuran-2(3H)-one | 0.45 mmol, 126 mg | FC1=C(C=C(C(=C1)F)F)S(=O)(=O)C1C(OCC1)=O | C10H7F3O4S
reactant | 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.50 mmol, 203 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O)C | C20H31N3O4Si
reactant | caesium carbonate | 2.0 mmol, 650 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 3.5 mL | C(C)#N | C2H3N
product | 3-[(7-Fluoro-5,5-dioxido-3,4-dihydro-2H-1,5-benzoxathiepin-8-yl)oxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 78 mg | FC=1C(=CC2=C(S(CCCO2)(=O)=O)C1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](CO)C | C23H24FN3O7S
